### PR TITLE
feat(Order/Hom/Basic): `WithBot (Fin n) ≃o Fin (n + 1)`

### PR DESCRIPTION
**Pull request by vihdzp**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Hom/Basic.lean [hunk 1]
```diff
@@ -1307,3 +1307,36 @@ lemma denselyOrdered_iff_of_orderIsoClass {X Y F : Type*} [Preorder X] [Preorder
...
+  left_inv x := by
+    refine x.recBotCoe ?_ fun x ↦ ?_ <;>
+    simp
+  right_inv := by
+    rintro ⟨(_ | x), hx⟩ <;>
+    simp
+  map_rel_iff' {x y} := by
+    refine x.recBotCoe ?_ fun x ↦ ?_ <;>
+    refine y.recBotCoe ?_ fun y ↦ ?_ <;>
+    simp [Fin.le_def]
```
Comment (Command-Master) [inline Mathlib/Order/Hom/Basic.lean:1327]:
```suggestion
def WithBot.orderIsoFin (n : ℕ) : WithBot (Fin n) ≃o Fin (n + 1) where
  toFun x := x.recBotCoe 0 Fin.succ
  invFun := Fin.cases ⊥ WithBot.some
  left_inv x := by cases x <;> rfl
  right_inv x := by cases x using Fin.cases <;> rfl
  map_rel_iff' {x y} := by cases x <;> cases y <;> simp [Fin.le_def]
```

File: Mathlib/Order/Hom/Basic.lean [hunk 2]
```diff
@@ -1307,3 +1307,36 @@ lemma denselyOrdered_iff_of_orderIsoClass {X Y F : Type*} [Preorder X] [Preorder
...
+  left_inv x := by
+    refine x.recTopCoe ?_ fun x ↦ ?_ <;>
+    simp
+  right_inv x := by
+    obtain hx | hx := Nat.lt_succ_iff_lt_or_eq.1 x.2 <;>
+    simp [hx, Fin.ext_iff]
+  map_rel_iff' {x y} := by
+    refine x.recTopCoe ?_ fun x ↦ ?_ <;>
+    refine y.recTopCoe ?_ fun y ↦ ?_ <;>
+    simp [Fin.le_def]
```
Comment (Command-Master) [inline Mathlib/Order/Hom/Basic.lean:1342]:
```suggestion
def WithTop.orderIsoFin (n : ℕ) : WithTop (Fin n) ≃o Fin (n + 1) where
  toFun x := x.recTopCoe (Fin.last n) Fin.castSucc
  invFun := Fin.lastCases ⊤ WithTop.some
  left_inv x := by cases x <;> simp
  right_inv x := by cases x using Fin.lastCases <;> simp
  map_rel_iff' {x y} := by cases x <;> cases y <;> simp [Fin.le_def]
```

**Review by Command-Master — COMMENTED** [review]
Some golfs

**Comment by vihdzp** [comment]
Nice! These proofs are way cleaner.

**Review by Command-Master — APPROVED** [review]

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Order/Hom/Basic.lean [hunk 3]
```diff
@@ -1307,3 +1307,19 @@ lemma denselyOrdered_iff_of_orderIsoClass {X Y F : Type*} [Preorder X] [Preorder
     exact ⟨EquivLike.inv f c, by simpa using hc⟩
 
 end DenselyOrdered
+
+/-- `Fin (n + 1)` is order equivalent to `Fin n` with a bottom element. -/
+def WithBot.orderIsoFin (n : ℕ) : WithBot (Fin n) ≃o Fin (n + 1) where
```
Comment (urkud) [inline Mathlib/Order/Hom/Basic.lean:1312]: We already have the `Equiv` version in `finSuccEquiv`. Why not reuse it? Imports? Something else?

Comment (vihdzp) [reply Mathlib/Order/Hom/Basic.lean:1312]: I'm having trouble using `finSuccEquiv` since it abuses the def-eq `WithBot α = Option α`, and we don't seem to have an equivalence to use instead. Not to mention that I would have to put these results in `Logic.Equiv.Fin`, which adds like 50 extra imports.

Comment (urkud) [reply Mathlib/Order/Hom/Basic.lean:1353]: I agree that adding an `Equiv` between `WithTop` and `Option` is out of the scope of this PR. Please add `simp` lemmas about these isomorphisms, then we can merge it.

P.S.: When you're ready, please don't forget to remove the `awaiting-author` label. If you also tag me, then I'll try to review it in a day or two.

**Comment by vihdzp** [comment]
I don't need this anymore; if someone else needs this they should probably do it the proper way by using the existing equiv.
